US05439928
b) 1-benzyl-5-(4,4-diphenyl-3-butenyl)-1H-imidazole
1-benzyl-5-(4-hydroxy-4,4-diphenylbutyl)-1H-imidazole (1,3 g) is refluxed in 20 ml of ethanol containing 5% (w/w) hydrogen chloride for 1 hour. The solvent is evaporated and the HCl-salt of the product is precipitated with ethyl acetate. Yield 1,1 g, m.p. 161°-168° C.

reactant | 1-benzyl-5-(4-hydroxy-4,4-diphenylbutyl)-1H-imidazole | 1,3 g | C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C26H26N2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-benzyl-5-(4,4-diphenyl-3-butenyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2
